US06384080B1
To a suspension of N-(3,4-dimethoxybenzyl)-2-(cis-4-hydroxycyclohexylamino)-5-nitrobenzamide (1.0 g) in dichloromethane (20 mL) were added triethylamine (0.49 mL) and 4-dimethylaminopyridine (284 mg), and then acetyl chloride (0.20 mL) at 20° C. The reaction mixture was stirred for 2 hours at 20° C. and then, acetyl chloride (0.05 mL) was added. After stirring for an hour at 20° C., the reaction mixture was partitioned between chloroform and 1N-hydrochloric acid. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of ethyl acetate and hexane (1:2). The residual solid was recrystallized from ethyl acetate to give 2-[cis-4-(acetoxy)cyclohexylamino]-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide (429 mg) as yellow crystals.

reactant | N-(3,4-dimethoxybenzyl)-2-(cis-4-hydroxycyclohexylamino)-5-nitrobenzamide | 1.0 g | COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@@H]2CC[C@@H](CC2)O)=O)C=CC1OC | C22H27N3O6
reactant | triethylamine | 0.49 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.20 mL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.05 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 284 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[cis-4-(acetoxy)cyclohexylamino]-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide | 429 mg | C(C)(=O)O[C@H]1CC[C@H](CC1)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C24H29N3O7
